US07465801B2
5-Ethyl-2-oxiranyl-pyridine (6)
To a stirred solution of 10 g (0.0426 mol) of 2-bromo-1-(5-ethyl pyridin-2-yl)-ethanol dissolved in 50 mL of methanol, 6.86 g (0.0511 mol) potassium carbonate was added at 25-30° C. and stirring was continued for 1 hr. Subsequently filtered and methanol was concentrated to furnish 5.8 g (90%) of the desired product.

reactant | 2-bromo-1-(5-ethyl pyridin-2-yl)-ethanol | 0.0426 mol, 10 g | BrCC(O)C1=NC=C(C=C1)CC | C9H12BrNO
reactant | potassium carbonate | 0.0511 mol, 6.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 5-Ethyl-2-oxiranyl-pyridine | 5.8 g, 90% | C(C)C=1C=CC(=NC1)C1OC1 | C9H11NO
